US04448962
A mixture of 1-(2-fluoroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (0.87 g) (3 millimole), piperazine (1.3 g) (15 millimole) and pyridine (4 ml) piperazine was heated at 135° to 145° C. for 12 hours. After cooling, the reaction mixture was evaporated under vacuum, the residue was acidified with acetic acid, the undissolved matter was filtered off. The filtrate was neutralized in an aqueous solution of caustic soda. The precipitate was filtered, washed, dried and dissolved in diluted HCl. Ethanol was added and the solution was ice cooled. The precipitate was filtered, washed with ethanol and dried and recrystallized from ethanol to obtain 0.30 g (27%) of 1-(2-fluoroethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride in powder form.

reactant | 1-(2-fluoroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3 millimole, 0.87 g | FCCN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H8ClF2NO3
reactant | piperazine | 15 millimole, 1.3 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-fluoroethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 0.30 g, 27% | Cl.FCCN1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C16H17F2N3O3.ClH/c17-1-4-21-9-11(16(23)24)15(22)10-7-12(18)14(8-13(10)21)20-5-2-19-3-6-20;/h7-9,19H,1-6H2,(H,23,24);1H
